US05183820
4-[(2,5-Difluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone
A mixture of 2,5-difluoroaniline (6.45 g) and 2,4-dioxopiperidine (5.66 g) was heated under nitrogen for 6 h. The reaction mixture was then dissolved in ethanol (50 ml), adsorbed onto silica, and purified by FCC eluting with System A (150:8:1) to give the title compound (2.3 g), m.p. 252°-255°.

reactant | 2,5-difluoroaniline | 6.45 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | 2,4-dioxopiperidine | 5.66 g | O=C1NCCC(C1)=O | C5H7NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-[(2,5-Difluorophenyl)amino]-5,6-dihydro-2(1H)-pyridinone | 2.3 g | FC1=C(C=C(C=C1)F)NC1=CC(NCC1)=O | C11H10F2N2O
